US06716843B2
(S)-3-[3-{2-[((Imino)-(methylsulphonylamino)-methyl)amino]-ethoxy}-alanyl]-1,3-thiazolidine Hydrochloride
Starting from (S)-3-(2-{[amino-(imino)-methyl]-amino}-ethoxy)-N-(benzyloxycarbonyl)-alanine, methanesulphonyl chloride and 1,3-thiazolidine, the expected product is obtained according to the procedure described in Example 36.

reactant | (S)-3-(2-{[amino-(imino)-methyl]-amino}-ethoxy)-N-(benzyloxycarbonyl)-alanine | NC(=N)NCCOC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O | C14H20N4O5
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,3-thiazolidine | S1CNCC1 | C3H7NS
product | (S)-3-[3-{2-[((Imino)-(methylsulphonylamino)-methyl)amino]-ethoxy}-alanyl]-1,3-thiazolidine Hydrochloride | Cl.N=C(NS(=O)(=O)C)NCCOC[C@H](N)C(=O)N1CSCC1 | InChI=1S/C10H21N5O4S2.ClH/c1-21(17,18)14-10(12)13-2-4-19-6-8(11)9(16)15-3-5-20-7-15;/h8H,2-7,11H2,1H3,(H3,12,13,14);1H/t8-;/m0./s1
